US20010018525A1
Step 1 3-Bromo-4-(2-hydroxyethoxy)-5-(3-chloro-4-fluorophenyl)benzoic acid ethyl ester
To a stirred solution of K2CO3 (4.99 g, 36.1 mmol) in 18 mL H2O was added 145 mL dioxane, 3-bromo-4-(2-hydroxyethoxy)-5-iodobenzoic acid ethyl ester (5.0 g, 12.04 mmol), and 3-chloro-4-fluorophenylboronic acid (2.1 g, 12.04 mmol) at room temperature. This mixture was stirred for 5 min then degassed twice. Then [1,1′-bis(diphenylphosphino)ferroceneldichloropal]adium(II), complex with CH2Cl2 (49 mg, 0.06 mmol) was added. The reaction was stirred for three hours then 98 mg, 0.12 mmol, of the catalyst was added. The reaction was allowed to stir for five days at room temperature before being worked up in the following manner. The reaction was diluted with 1N HCl and H2O and extracting with EtOAc three times. The combined organic extracts were dried over NASO4 and filtered. Removal of the solvent in vacuo. gave crude material which was subjected to prep HPLC to yield 2 g, 35.5% of the bis arylated product 1H NMR (CDCl3) δ1.40 (t, J=8.18 Hz, 3H); 1.945 (s, 1H); 3.712 (m, 4H); 4.36 (q, J=8.18 Hz, 2H); 7.19-7.23 (m, 1H); 7.40-7.45 (m, 1H); 7.60-7.65 (dd, J=8.18 Hz, 2.73 Hz, 1H); 7.91 (d, J=2.73 Hz, 1H); 8.24 (d, J=2.73 Hz, 1H); and 860 mg, 17.1% of the mono arylated product 1H NMR (CDCl3) 8 1.29 (bs, 1H); 1.41 (t, J=8.18 Hz, 3H); 3.40 (m, 4H); 4.40 (q, J=8.18 Hz, 2H); 7.20-7.28, (m, 2H); 7.454-7.545 (m, 2H); 7.69 (dd, J=8.18 Hz, 2.73 Hz, 2H); 8.013 (s, 1H); and 38% recovered SM.

reactant | K2CO3 | 36.1 mmol, 4.99 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-4-(2-hydroxyethoxy)-5-iodobenzoic acid ethyl ester | 12.04 mmol, 5.0 g | C(C)OC(C1=CC(=C(C(=C1)I)OCCO)Br)=O | C11H12BrIO4
reactant | 3-chloro-4-fluorophenylboronic acid | 12.04 mmol, 2.1 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | CH2Cl2 | 0.06 mmol, 49 mg | C(Cl)Cl | CH2Cl2
solvent | H2O | 18 mL | O | H2O
solvent | HCl | 1N | Cl | ClH
solvent | dioxane | 145 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-4-(2-hydroxyethoxy)-5-(3-chloro-4-fluorophenyl)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=C(C=C1)F)Cl)OCCO)Br)=O | C17H15BrClFO4
